US09126980B2
Step 2: Preparation of 4-Chloro-5-methyl-1H-pyrazole-3-carboxylic acid dibutylamide
To a stirred solution of dibutylamine (13 mL, 76 mmol) in dichloromethane (250 mL) under nitrogen atmosphere was added trimethylaluminium (38 mL, 2M in toluene, 76 mmol). The mixture was stirred at ambient temperature for 30 minutes. (4-Chloro-5-methyl-1H-pyrazole-3-carboxylic acid ethyl ester (4.8 g, 25 mmol) in dichloromethane (30 mL) was added dropwise to the mixture. The reaction was stirred for 12 hours under a nitrogen atmosphere. The mixture was poured into saturated Rochelle salt solution slowly and stirred at ambient temperature for 2 hours. The organic layer was collected. The aqueous layer was extracted with dichloromethane and combined with the organic layer. The organic phase was brine-washed, dried over sodium sulfate, filtered, concentrated down, and dried. The residue was purified by eluting through a silica gel column with a 0 to 100% ethyl acetate/heptane gradient to afford the title compound (4.7 g, 68% yield) as a clear oil. MS (ESI) [m/e, (M+H)+]=272.4. 1H NMR (400 MHz, chloroform-d) δ ppm 3.50 (t, J=7.5 Hz, 2H), 3.37 (t, J=7.5 Hz, 2H), 2.28 (s, 3H), 1.64 (quin, J=7.5 Hz, 2H), 1.44-1.55 (m, 2H), 1.30-1.43 (m, 2H), 1.10-1.22 (m, 2H), 0.97 (t, J=8.0 Hz, 3H), 0.82 (t, J=7.3 Hz, 3H).

reactant | dibutylamine | 76 mmol, 13 mL | C(CCC)NCCCC | C8H19N
reactant | trimethylaluminium | 76 mmol, 2M, 38 mL | C[Al](C)C
reactant | 4-Chloro-5-methyl-1H-pyrazole-3-carboxylic acid ethyl ester | 25 mmol, 4.8 g | C(C)OC(=O)C1=NNC(=C1Cl)C | C7H9ClN2O2
reactant | Rochelle salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 4-Chloro-5-methyl-1H-pyrazole-3-carboxylic acid dibutylamide | 4.7 g, 68% yield | C(CCC)N(C(=O)C1=NNC(=C1Cl)C)CCCC | C13H22ClN3O
